US08895596B2
Step B Ethyl 4-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-{4′-[(4-hydroxypiperidin-1-yl)carbonyl]biphenyl-4-yl}-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate.
To a yellow solution of (4-hydroxypiperidin-1-yl)[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methanone (0.147 g, 0.443 mmol), ethyl 4-{[1-(biphenyl-4-ylmethyl)-5-(4-bromophenyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexane-carboxylate (0.260 g, 0.403 mmol), and Pd(PPh3)4 (0.028 g, 0.024 mmol) was added 1 M K2CO3 (1.20 mL, 1.20 mmol) dropwise via syringe. The mixture was heated at 120° C. for 45 min, and then diluted with EtOAc and H2O. The aqueous layer was separated and further extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated. Purification of the resulting residue by flash chromatography (100% EtOAc) afforded the desired compound as a ˜2:1 mixture of trans/cis isomers. The cis/trans isomers were separated via reverse phase Gilson™ HPLC (60-100% MeCN/H2O) to afford a faster eluting isomer A and a slower eluting isomer B as white solids.

reactant | (4-hydroxypiperidin-1-yl)[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methanone | 0.443 mmol, 0.147 g | OC1CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H26BNO4
reactant | ethyl 4-{[1-(biphenyl-4-ylmethyl)-5-(4-bromophenyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexane-carboxylate | 0.403 mmol, 0.260 g | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2F)C2=CC=C(C=C2)Br)F)OC2CCC(CC2)C(=O)OCC)C2=CC=CC=C2 | C35H31BrF2N2O3
reactant | K2CO3 | 1.20 mmol, 1 M, 1.20 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | Pd(PPh3)4 | 0.024 mmol, 0.028 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 4-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-{4′-[(4-hydroxypiperidin-1-yl)carbonyl]biphenyl-4-yl}-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2F)C2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)N2CCC(CC2)O)F)OC2CCC(CC2)C(=O)OCC)C2=CC=CC=C2 | C47H45F2N3O5
